US09371320B2
B) tetrahydro-2H-pyran-3-ylhydrazine dihydrochloride
tert-Butyl 2-(tetrahydro-2H-pyran-3-yl)hydrazinecarboxylate (3.65 g) was dissolved in 4N hydrogen chloride-ethyl acetate solution (85 mL) under ice-cooling, and the solution was stirred overnight, at room temperature. The reaction mixture was concentrated under reduced pressure to give the title compound (2.40 g).

reactant | tert-Butyl 2-(tetrahydro-2H-pyran-3-yl)hydrazinecarboxylate | 3.65 g | O1CC(CCC1)NNC(=O)OC(C)(C)C | C10H20N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 85 mL | C(C)(=O)OCC.Cl
product | tetrahydro-2H-pyran-3-ylhydrazine dihydrochloride | 2.40 g | Cl.Cl.O1CC(CCC1)NN | InChI=1S/C5H12N2O.2ClH/c6-7-5-2-1-3-8-4-5;;/h5,7H,1-4,6H2;2*1H
